US05077293
General Method: 5-Fluoroindole-3-propionic acid
Thus, a solution of 5-fluoroindole (1.35 g, 0.010 mole) in 10 mL of acetic acid containing acrylic acid (1.5 mL, 0.022 mole) and acetic anhydride (1.9 mL, 0.02 mole) was heated (oil bath) at 90° C. under Ar for 5 days. The volatiles were then removed in vacuo and the residue was taken up in 3 N NaOH. Insoluble material was removed by filtration and the filtrate was acidified with conc. HCl and then extracted with CH2Cl2. The organic extract was dried (Na2SO4) and evaporated to give the product (1.19 g, 57%) as a solid which was used without further purification: IR (neat) 3420, 1710 cm-1 ; 1Hnmr (200 MHz, CDCl3) δ 7.94 (br s, 1H), 7.28-7.18 (m, 3H), 7.05 (d, J=2.5 Hz, 1H), 6.93 (dt, J=9.0, 2.6 Hz, 1H), 3.05 (t, J=7.5 Hz, 2H), 2.73 (t, J=7.6 Hz, 2H).

reactant | 5-fluoroindole | 0.010 mole, 1.35 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | acrylic acid | 0.022 mole, 1.5 mL | C(C=C)(=O)O | C3H4O2
reactant | acetic anhydride | 0.02 mole, 1.9 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-Fluoroindole-3-propionic acid | 1.19 g, 57% | FC=1C=C2C(=CNC2=CC1)CCC(=O)O | C11H10FNO2
